US07335658B2
6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-CYCLOPROPYLPROPYL)AMIDE
Following the procedure of Example 11, making variations only as required to use 5-fluoro-2-trifluoromethylbenzyl chloride in place of 2-trifluoromethylbenzyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide, the title compound was obtained as a light yellow solid (34% yield). 1H NMR (300 MHz, CDCl3) δ 7.98, 7.88, 7.55-7.65, 7.2, 6.93, 3.68-3.85, 3.50, 2.60, 1.70, 1.25, 0.65, 0.40, 0.09. MS (ES+) m/z 466 (M+1).

reactant | 5-fluoro-2-trifluoromethylbenzyl chloride | FC=1C=CC(=C(CCl)C1)C(F)(F)F | C8H5ClF4
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide | C1(CC1)CCCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C15H23N5O
product | 6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-CYCLOPROPYLPROPYL)AMIDE | C1(CC1)CCCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)CC1=C(C=CC(=C1)F)C(F)(F)F | C23H27F4N5O
